* Z:\mnt\design.r\spice\examples\1434.asc
C1 N011 0 100p
C2 N009 0 .01µ
C3 N006 0 6800p
C4 N007 0 680p
L1 N002 OUT 100µ
R1 N007 N006 5.1K
V1 IN 0 6
C5 OUT 0 100µ
D1 0 N002 1N5818
R2 OUT N008 100K
R3 N008 0 50K
XU1 MP_01 N002 MP_02 N002 0 MP_03 N009 MP_04 N005 N001 N010 N008 N007 MP_05 N011 N004 N003 IN MP_06 IN LTC1434
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 10m startup
.lib LTC1434.sub
.backanno
.end
